*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA2R5ARA152MJC0G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA2R5ARA152MJC0G_20deg-C 1 2

C1 4 2 9.77e-04
C2 5 2 4.15e-04
C3 6 2 7.09e-05
R1 3 4 5.52e-03
R2 4 5 2.48e-02
R3 5 6 1.04e+00
L1 1 3 5.10e-09

.ENDS
